US04132786
Preparation of 2-amino-4-chloro-5-nitroanisole.
0.5 mol (99.5 g) of 2-acetamido-4-chloro-5-nitroanisole and 125 ml of a solution of potassium hydroxide (140 g of KOH/100 ml of water) are introduced into a 500 ml flask; the mixture is brought to between 100 and 110° C for one hour and three quarters; the product is dried without heating and washed with water.

reactant | 2-acetamido-4-chloro-5-nitroanisole | 0.5 mol, 99.5 g | C(C)(=O)NC1=C(C=C(C(=C1)Cl)[N+](=O)[O-])OC | C9H9ClN2O4
solvent | potassium hydroxide | 100 ml, 140 g | [OH-].[K+]
product | 2-amino-4-chloro-5-nitroanisole | NC1=C(C=C(C(=C1)Cl)[N+](=O)[O-])OC | C7H7ClN2O3
